US06369075B1
2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid
2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester (345 mg, 0.72 mmol) was dissolved in 3 ml of tetrahydrofuran, 1 ml of methanol and 1 ml of water, and lithium hydroxide monohydrate was added (61 mg, 1.44 mmol). After 3 h at room temperature, the volatiles were evaporated and the resulting mixture diluted with 10 ml of water before being brought to pH 1 with 1N HCl. Filtration of the resulting solid followed by air drying afforded 326 mg of the title compound as a yellow solid.

reactant | 2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester | 0.72 mmol, 345 mg | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C27H21F3N2O3
reactant | methanol | 1 ml | CO | CH4O
reactant | water | 1 ml | O | H2O
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-Methyl-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 326 mg | CC1=NC2=CC(=CC=C2C=C1C(=O)O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C25H17F3N2O3
